US07202263B2
3-[(4-(Imidazol-1-yl)phenyl)amino]piperidine (330 mg, 1.36 mmol) was dissolved in DMF and then treated with 5-chloromethyl-1,3-benzodioxole (1.0 eq.), K2CO3 (2.5 eq.) and NaI (0.1 eq.). The resulting mixture was heated at 50° C. for 1 hour. Filtration of the mixture and evaporation of the solvent in vacuo gave a crude product (411 mg). Flash column chromatography on silical gel with 1–2.5% methanol in methylene chloride afforded 3-[(4-(imidazol-1-yl)phenyl)amino]-1-[(1,3-benzodioxol-5-yl)methyl]piperidine (110 mg), 1H NMR(CDCl3) 7.70 (s, 1), 7.10 (m, 4), 6.80 (s, 1), 6.70 (m, 2), 6.60 (d, 2), 5.90 (s, 2), 4.30 (m, 1), 3.60 (m, 1), 3.40 (AB q, 2), 2.70 (m, 1), 2.40 (m, 3), 1.50–1.80 (m, 4) ppm.

reactant | 3-[(4-(Imidazol-1-yl)phenyl)amino]piperidine | 1.36 mmol, 330 mg | N1(C=NC=C1)C1=CC=C(C=C1)NC1CNCCC1 | C14H18N4
reactant | 5-chloromethyl-1,3-benzodioxole | 1.0 eq. | ClCC1=CC2=C(OCO2)C=C1 | C8H7ClO2
reactant | K2CO3 | 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.1 eq. | [Na+].[I-]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 3-[(4-(imidazol-1-yl)phenyl)amino]-1-[(1,3-benzodioxol-5-yl)methyl]piperidine | 110 mg | N1(C=NC=C1)C1=CC=C(C=C1)NC1CN(CCC1)CC1=CC2=C(OCO2)C=C1 | C22H24N4O2
